* Z:\uio\hume\student-u18\rikeshc\Rikesh\mast\INF5460\oblig_1\LM741_1d.asc
Q1 N001 3 N008 0 NP
Q2 N001 2 N009 0 NP
Q5 N011 N010 N009 0 PN
Q6 N013 N010 N008 0 PN
Q7 N013 N016 N018 0 NP
Q8 N011 N016 N019 0 NP
Q3 7 N013 N016 0 NP
Q4 N001 N001 7 0 PN
R1 N018 4 1K
R2 N016 4 50K
R3 N019 4 1K
Q9 N010 N001 7 0 PN
Q10 N002 N002 7 0 PN
Q11 N003 N002 7 0 PN
Q12 N014 N014 4 0 NP
Q13 N010 N014 N020 0 NP
R4 N020 4 5K
Q14 N003 N004 N007 0 NP
Q15 N007 N015 N017 0 NP
Q16 N007 N011 N015 0 NP
R5 N015 4 50K
R6 N017 4 50
Q17 N011 N017 4 0 NP
C1 N003 N011 30p
R7 N007 N004 7.5K
R8 N003 N004 4.5K
Q18 7 N003 N005 0 NP
Q19 4 N007 N012 0 PN
R9 N005 6 25
R10 6 N012 50
Q20 N003 N005 6 0 NP
V1 4 0 -15
V2 7 0 15
R11 6 2 10K
R12 2 0 1K
V3 N006 0 SINE(0 1 1K) AC 1
R13 N002 N014 39K
R14 3 N006 10K
C2 6 0 {Cload}
.model NPN NPN
.model PNP PNP
.lib Z:\uio\hume\student-u18\rikeshc\LTSpice\lib\cmp\standard.bjt
* IN+
* IN-
* OUT
;tran 5u 10m
* This example schematic is supplied for informational/educational purposes only.
* V-
* V+
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
.ac dec 100 1 1MEG
.step param Cload 10p 50p 10p
.backanno
.end
